US07432287B2
Preparation of 5-(2-fluoro-1-fluoromethyl-ethoxy)-N-(1-methyl-1H-pyrazol-3-yl)-3-(pyridin-4-yloxy)benzamide
The compound of Production Example 164 was obtained as a white amorphous substance using 5-hydroxy-3-methoxymethoxybenzoic acid methyl ester, 4-chloropyridine hydrochloride, 1,3-difluoro-2-propanol and 3-amino-1-methyl-1H-pyrazole, by the same method as in Production Example 117, a corresponding method, or a combination thereof with an ordinary method.

reactant | 5-hydroxy-3-methoxymethoxybenzoic acid methyl ester | COC(C1=CC(=CC(=C1)O)OCOC)=O | C10H12O5
reactant | 4-chloropyridine hydrochloride | Cl.ClC1=CC=NC=C1
reactant | 1,3-difluoro-2-propanol | FCC(CF)O | C3H6F2O
reactant | 3-amino-1-methyl-1H-pyrazole | NC1=NN(C=C1)C | C4H7N3
product | 5-(2-fluoro-1-fluoromethyl-ethoxy)-N-(1-methyl-1H-pyrazol-3-yl)-3-(pyridin-4-yloxy)benzamide | FCC(OC=1C=C(C=C(C(=O)NC2=NN(C=C2)C)C1)OC1=CC=NC=C1)CF | C19H18F2N4O3
